* 1-Bit SRAM Full Integration
* Author: Sanchaika
* PDK: SKY130 | VDD=1.8V

.lib "/usr/local/share/pdk/sky130A/libs.tech/combined/sky130.lib.spice" tt

.subckt precharge BL BLB VDD PCB
XPC1 VDD PCB BL  VDD sky130_fd_pr__pfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XPC2 VDD PCB BLB VDD sky130_fd_pr__pfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XPC3 BL  PCB BLB VDD sky130_fd_pr__pfet_01v8 W=0.5 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
.ends precharge

.subckt sram_6t BL BLB WL VDD GND
XM1 Q  QB  GND GND sky130_fd_pr__nfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XM2 Q  QB  VDD VDD sky130_fd_pr__pfet_01v8 W=0.5 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XM3 QB Q   GND GND sky130_fd_pr__nfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XM4 QB Q   VDD VDD sky130_fd_pr__pfet_01v8 W=0.5 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XM5 BL  Q  WL GND sky130_fd_pr__nfet_01v8 W=0.5 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XM6 BLB QB WL GND sky130_fd_pr__nfet_01v8 W=0.5 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
.ends sram_6t

.subckt write_driver BL BLB DIN WE VDD GND
XINVn DINB DIN  GND GND sky130_fd_pr__nfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XINVp DINB DIN  VDD VDD sky130_fd_pr__pfet_01v8 W=0.5 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XWD1 BL  DIN  WE GND sky130_fd_pr__nfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XWD2 BLB DINB WE GND sky130_fd_pr__nfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
.ends write_driver

.subckt sense_amp BL BLB OUT OUTB SAE VDD GND
XSP1 OUT  OUTB VDD VDD sky130_fd_pr__pfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XSP2 OUTB OUT  VDD VDD sky130_fd_pr__pfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XSN1 OUT  OUTB GND GND sky130_fd_pr__nfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XSN2 OUTB OUT  GND GND sky130_fd_pr__nfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XSEN1 OUT  BL  SAE GND sky130_fd_pr__nfet_01v8 W=0.5 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XSEN2 OUTB BLB SAE GND sky130_fd_pr__nfet_01v8 W=0.5 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
.ends sense_amp

XPRE  BL BLB VDD PCB             precharge
XCELL BL BLB WL VDD 0            sram_6t
XWD   BL BLB DIN WE VDD 0        write_driver
XSA   BL BLB OUT OUTB SAE VDD 0  sense_amp

Vvdd VDD 0 DC 1.8
VPCB PCB 0 PWL(0n 0 3n 0 3.1n 1.8 13n 1.8 13.1n 0 16n 0 16.1n 1.8 30n 1.8)
VWL  WL  0 PWL(0n 0 5n 0 5.1n 1.8 13n 1.8 13.1n 0 18n 0 18.1n 1.8 26n 1.8 26.1n 0)
VWE  WE  0 PWL(0n 0 5n 0 5.1n 1.8 13n 1.8 13.1n 0 30n 0)
VDIN DIN 0 PWL(0n 0 30n 0)
VSAE SAE 0 PWL(0n 0 20n 0 20.1n 1.8 26n 1.8 26.1n 0 30n 0)

.ic V(XCELL.Q)=1.8 V(XCELL.QB)=0

.tran 10p 30n

.control
  run
  hardcopy ../waveforms/1bit_sram_full_waveform.ps V(PCB) V(WL) V(WE) V(BL) V(BLB) V(XCELL.Q) V(SAE) V(OUT)
  write ../simulations/1bit_sram_full.raw
  echo "*** 1-BIT FULL SRAM INTEGRATION COMPLETE ***"
.endc

.end
