* Precharge Circuit - SRAM Bitline Precharge
* Author: Sanchaika
* Function: Precharges BL and BLB to VDD before READ
* Circuit: 3 PMOS transistors (PC1, PC2=pullup, PC3=equalizer)

.lib "/usr/local/share/pdk/sky130A/libs.tech/combined/sky130.lib.spice" tt

*------------------------------------------------------
* PRECHARGE SUBCIRCUIT
* PCB = Precharge Bar (active LOW — 0 = precharging)
*------------------------------------------------------
.subckt precharge BL BLB VDD PCB
* PC1: Pull BL  up to VDD
XPC1 VDD PCB BL  VDD sky130_fd_pr__pfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
* PC2: Pull BLB up to VDD
XPC2 VDD PCB BLB VDD sky130_fd_pr__pfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
* PC3: Equalizer — connects BL to BLB (removes small offset)
XPC3 BL  PCB BLB VDD sky130_fd_pr__pfet_01v8 W=0.5 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
.ends precharge

*------------------------------------------------------
* TESTBENCH
* Phase 1 (0-3ns):  PCB=0 → precharge ON  → BL,BLB → VDD
* Phase 2 (3-10ns): PCB=1 → precharge OFF → BL,BLB float
*------------------------------------------------------
Vvdd VDD 0 DC 1.8

* PCB: LOW=precharging, HIGH=idle
VPCB PCB 0 PULSE(0 1.8 3n 100p 100p 6n 20n)

* Start BL and BLB at 0V (discharged state)
VBL_init  BL  0 PWL(0n 0)
VBLB_init BLB 0 PWL(0n 0)

X1 BL BLB VDD PCB precharge

.tran 10p 15n

.control
  run
  hardcopy ../waveforms/precharge_waveform.ps V(PCB) V(BL) V(BLB)
  write ../simulations/precharge.raw
  echo "*** PRECHARGE SIMULATION COMPLETE ***"
.endc

.end
