* Sense Amplifier - SRAM
* Author: Sanchaika
* Type: Cross-coupled latch (standard SRAM SA)
* Function: Amplifies small BL-BLB voltage diff to full swing

.lib "/usr/local/share/pdk/sky130A/libs.tech/combined/sky130.lib.spice" tt

*------------------------------------------------------
* SENSE AMPLIFIER SUBCIRCUIT
* SAE = Sense Amp Enable (active HIGH)
* OUT = Amplified output (= stored bit)
*------------------------------------------------------
.subckt sense_amp BL BLB OUT OUTB SAE VDD GND

* Cross-coupled PMOS latch
XSP1 OUT  OUTB VDD VDD sky130_fd_pr__pfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XSP2 OUTB OUT  VDD VDD sky130_fd_pr__pfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1

* Cross-coupled NMOS latch
XSN1 OUT  OUTB GND GND sky130_fd_pr__nfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XSN2 OUTB OUT  GND GND sky130_fd_pr__nfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1

* Enable NMOS - connects latch to BL/BLB when SAE=HIGH
XSEN1 OUT  BL  SAE GND sky130_fd_pr__nfet_01v8 W=0.5 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XSEN2 OUTB BLB SAE GND sky130_fd_pr__nfet_01v8 W=0.5 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1

.ends sense_amp

*------------------------------------------------------
* TESTBENCH
* BL slightly lower than BLB (simulates stored 0 being read)
* Small 50mV differential — SA must amplify to full swing
* SAE goes HIGH at 3ns to trigger sensing
*------------------------------------------------------
Vvdd VDD 0 DC 1.8

* BL precharged to 1.8V then slightly discharged (read disturb)
VBL  BL  0 PWL(0n 1.8 2n 1.8 2.5n 1.75)

* BLB stays at full VDD (cell stored 1 on QB side)
VBLB BLB 0 PWL(0n 1.8 2n 1.8)

* SAE fires at 3ns
VSAE SAE 0 PULSE(0 1.8 3n 100p 100p 8n 20n)

X1 BL BLB OUT OUTB SAE VDD 0 sense_amp

.tran 10p 15n

.control
  run
  hardcopy ../waveforms/sense_amp_waveform.ps V(BL) V(BLB) V(SAE) V(OUT) V(OUTB)
  write ../simulations/sense_amp.raw
  echo "*** SENSE AMP SIMULATION COMPLETE ***"
.endc

.end
