* Write Driver Circuit - SRAM
* Author: Sanchaika

.lib "/usr/local/share/pdk/sky130A/libs.tech/combined/sky130.lib.spice" tt

.subckt write_driver BL BLB DIN WE VDD GND
XINVn DINB DIN  GND GND sky130_fd_pr__nfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XINVp DINB DIN  VDD VDD sky130_fd_pr__pfet_01v8 W=0.5 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XWD1 BL  DIN  WE GND sky130_fd_pr__nfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XWD2 BLB DINB WE GND sky130_fd_pr__nfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
.ends write_driver

Vvdd VDD 0 DC 1.8
VWE  WE  0 PULSE(0 1.8 2n 100p 100p 12n 30n)
VDIN DIN 0 PWL(0n 0 2n 0 8n 1.8)
VBL_pre  BL  0 PWL(0n 1.8)
VBLB_pre BLB 0 PWL(0n 1.8)

X1 BL BLB DIN WE VDD 0 write_driver

.tran 10p 20n

.control
  run
  hardcopy ../waveforms/write_driver_waveform.ps V(WE) V(DIN) V(BL) V(BLB)
  write ../simulations/write_driver.raw
  echo "*** WRITE DRIVER SIMULATION COMPLETE ***"
.endc

.end
